US04544562
5.9 g (57.0 millimoles) of cyanoacetyl chloride were added dropwise to 6.0 g (31.7 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone in 150 ml of absolute tetrahydrofuran at room temperature, while stirring. After the addition was complete, stirring was continued for a further 10 minutes at 50° C. The product was filtered off under suction at 10° C., washed first with tetrahydrofuran and then with water and recrystallized from dimethylformamide/water. 4.4 g (54%) of 6-[p-(cyanoacetylamino)-phenyl]-4.5,-dihydro-3(2H)-pyridazinone were obtained as pale beige crystals. Mp.: 270° C. (decomposition).

reactant | cyanoacetyl chloride | 57.0 millimoles, 5.9 g | C(#N)CC(=O)Cl | C3H2ClNO
reactant | 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 31.7 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-[p-(cyanoacetylamino)-phenyl]-4.5,-dihydro-3(2H)-pyridazinone | 4.4 g, 54% | C(#N)CC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H12N4O2
